US07709645B2
To a solution of methyl-[2-(2,2,2-trifluoro-acetylamino)-ethyl]-carbamic acid tert-butyl ester (1.04 g, 3.85 mmol) in methanol (60 mL) was added 1 M aqueous lithium hydroxide (34 mL, 34.00 mmol). The mixture was stirred at room temperature overnight. It was then concentrated and ethyl acetate (50 mL) was added. The precipitate was filtered off and the filtrate concentrated to give 120 mg (18%) of (2-amino-ethyl)-methyl-carbamic acid tert-butyl ester. 1H-NMR (250 MHz, CDCl3) δ 3.22 (t, J=6.5 Hz, 2H), 2.72-2.86 (m, 5H), 1.36 (s, 9H).

reactant | methyl-[2-(2,2,2-trifluoro-acetylamino)-ethyl]-carbamic acid tert-butyl ester | 3.85 mmol, 1.04 g | C(C)(C)(C)OC(N(CCNC(C(F)(F)F)=O)C)=O | C10H17F3N2O3
reactant | lithium hydroxide | 34.00 mmol, 1 M, 34 mL | [OH-].[Li+]
solvent | methanol | 60 mL | CO | CH4O
product | (2-amino-ethyl)-methyl-carbamic acid tert-butyl ester | 120 mg, 18% | C(C)(C)(C)OC(N(C)CCN)=O | C8H18N2O2
